US05057630
To a 5 mL round-bottom flask is added at room temperature p-toluenesulphonic acid monohydrate (0.01 g, 0.053 mmol), methanol (8 mL) and (1R-cis)-4-nitromethyl-2-cyclopentene -acetate as prepared in Example 10 (0.20 g, 1.1 mmol) and the resulting solution is stirred overnight. The crude reaction mixture is loaded on a silica column (32 μm-63 μm) and purified by flash chromatography by eluting with 20% ethyl acetate/hexane. The fractions containing the product (Rf=0.3) are combined and are concentrated in vacuo to give (1R-cis)-4-nitromethyl-2-cyclopenten-1-ol as a clear oil which exhibited the following physical data: MS(CI) m/z=126 [C6H8NO2 +, Loss of H2O followed by rapid protonation]; and [α]D20 =+4.8° (c=0.16, CHCl3).

reactant | p-toluenesulphonic acid monohydrate | 0.053 mmol, 0.01 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | (1R-cis)-4-nitromethyl-2-cyclopentene -acetate | [N+](=O)([O-])C[C@H]1C=C[C@H](C1)CC(=O)[O-]
solvent | methanol | 8 mL | CO | CH4O
product | (1R-cis)-4-nitromethyl-2-cyclopenten-1-ol | [N+](=O)([O-])C[C@@H]1C=C[C@@H](C1)O | C6H9NO3
